US08609696B2
Step 1: Synthesis of (1-{[4-(Pyridin-2-yl)phenyl]sulfonyl}piperidin-4-yl)methanol
To a stirred solution of methyl 1-{[4-(pyridin-2-yl)phenyl]sulfonyl}piperidine-4-carboxylate (0.40 g, 1.11 mmol) in anhydrous methanol (8 mL) is added sodium borohydride (0.59 g, 15.5 mmol). After 18 h water (20 mL) is added. The resulting solid is filtered, washed with water and suspended in MeCN. The suspension is concentrated under reduced pressure to give 0.26 g (72%) of 1-{[4-(pyridin-2-yl)phenyl]sulfonyl}piperidin-4-yl)methanol. m/z=333 [M++H].

reactant | methyl 1-{[4-(pyridin-2-yl)phenyl]sulfonyl}piperidine-4-carboxylate | 1.11 mmol, 0.40 g | N1=C(C=CC=C1)C1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)C(=O)OC | C18H20N2O4S
reactant | sodium borohydride | 15.5 mmol, 0.59 g | [BH4-].[Na+]
reactant | water | 20 mL | O | H2O
solvent | methanol | 8 mL | CO | CH4O
product | (1-{[4-(Pyridin-2-yl)phenyl]sulfonyl}piperidin-4-yl)methanol | N1=C(C=CC=C1)C1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)CO | C17H20N2O3S
